US04612288
An amount of penicillin acylase enzyme, either free or immobilized on the carrier, sufficient to contain about 50 I.U. of activity, was suspended in 60 ml of 7.5-pH phosphate buffer. The mixture was maintained at 28° C. in a vessel connected to a pH controller which electrometrically determined the pH and metered in sufficient 0.8 N sodium hydroxide solution to maintain the pH at approximately 8.0. A solution containing 5 g of penicillin G potassium salt in phosphate buffer, also at 28° C., was added to the vessel, and the rate of formation of phenylacetic acid by the enzyme-catalyzed hydrolysis of the penicillin G was determined from the rate of addition of sodium hydroxide solution to maintain the pH. The liquid in the vessel was sampled upon addition of the penicillin G salt and after 10 and 30 minutes. These samples (0.5 ml) were immediately mixed with 3 ml of a solution of 1 ml of 0.05 M sodium hydroxide, 2 ml of 20% acetic acid and 0.5% (weight-volume) p-dimethylaminobenzaldehyde/methanol, and were allowed to stand for 10 minutes. The amount of 6-aminopenicillanic acid formed was determined by spectrophotometrically measuring the light absorption of the mixture at a wave length of 415 nm.

reactant | penicillin | CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)NC(=O)CC=3C=CC=CC3)C(=O)[O-])C.[K+]
reactant | sodium hydroxide | 0.8 N | [OH-].[Na+]
reactant | penicillin G potassium salt | 5 g | CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)NC(=O)CC3=CC=CC=C3)C(=O)[O-])C.[K+]
reactant | phenylacetic acid | C1(=CC=CC=C1)CC(=O)O | C8H8O2
reactant | penicillin G | CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)NC(=O)CC=3C=CC=CC3)C(=O)O)C | C16H18N2O4S
reactant | sodium hydroxide | 0.05 M, 1 ml | [OH-].[Na+]
reactant | p-dimethylaminobenzaldehyde methanol | CN(C1=CC=C(C=O)C=C1)C.CO
solvent | phosphate | P(=O)([O-])([O-])[O-]
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
product | 6-aminopenicillanic acid | CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)N)C(=O)O)C | C8H12N2O3S
